US05684003
Isopropyl 5-benzyloxy-2-aminophenylacetate
A mixture of ammonium chloride (5.63 g), a water/ethanol mixed solvent (1:1 v/v, 240 ml ) and powdery iron (29.3 g) was heated under reflux for one hour and a Soxhlet extractor containing isopropyl 5-benzyloxy-2-nitrophenylacetate was set and refluxing was continued for a further 3 hours and then allowed to stand at room temperature overnight. Insolubles were filtered off with Celite and the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved in ethyl ether, and the solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The oily substance thus obtained (18.9 g) was purified by a silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (10.8 g).

reactant | ammonium chloride | 5.63 g | [Cl-].[NH4+]
reactant | water ethanol | 240 ml | O.C(C)O
reactant | isopropyl 5-benzyloxy-2-nitrophenylacetate | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)OC(C)C)[N+](=O)[O-] | C18H19NO5
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | iron | 29.3 g | [Fe] | Fe
product | Isopropyl 5-benzyloxy-2-aminophenylacetate | 10.8 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)OC(C)C)N | C18H21NO3
